US08008307B2
Step a: rel-(1R,2S)-2-[(dimethylamino)methyl]indan-1-amine
To a stirred suspension of lithium tetrahydroaluminate (256 mg, 6.74 mmol) in THF (20.0 mL) was added a solution of rel-(1R,2R)-1-amino-N,N-dimethylindane-2-carboxamide (580 mg, 2.70 mmol) in THF (10.0 mL) at 0° C. under an atmosphere of Argon, and then the mixture was stirred for 1 h at 60° C. following by stirring for 14 h at 23° C. The reaction mixture was quenched by addition of water and 1.00 M NaOH (5.00 mL), and the resulting mixture was stirred for 2 h. This suspension was filtered through a Celite pad, and the filtrate was concentrated in vacuo. The residue was purified by flash chromatography (5 to 20% Methanol/DCM with 1% NH4OH) to afford the title compound (438 mg, 95%) as a light brown oil.

reactant | lithium tetrahydroaluminate | 6.74 mmol, 256 mg | [AlH4-].[Li+]
reactant | rel-(1R,2R)-1-amino-N,N-dimethylindane-2-carboxamide | 2.70 mmol, 580 mg | N[C@@H]1[C@@H](CC2=CC=CC=C12)C(=O)N(C)C | C12H16N2O
solvent | THF | 20.0 mL | C1CCOC1 | C4H8O
solvent | THF | 10.0 mL | C1CCOC1 | C4H8O
product | rel-(1R,2S)-2-[(dimethylamino)methyl]indan-1-amine | 438 mg, 95% | CN(C)C[C@H]1[C@H](C2=CC=CC=C2C1)N | C12H18N2
